US05110951
The above-described method is to react 5,6-isopropylidene-L-ascorbic acid or L-ascorbic acid with a phosphoric halide in a specific solvent (such as water, or a mixed solvent composed of water and acetone, dimethylformamide or trimethylphosphoric acid) in the presence of a base at temperature not higher than room temperature. More particularly, L-ascorbic derivative of which the hydroxyl groups at the 5- and 6-positions have been protected with acetone under acidic conditions (i.e., 5,6-isopropylidene-L-ascorbic acid) or L-ascorbic acid is dissolved in a mixed solvent composed of water and pyridine or a mixture of water and calcium hydroxide, and phosphorus oxychloride is added dropwise to the resulting solution or mixture at a temperature not higher than 0° C., and the reaction is continued at the same temperature for 90 minutes (reaction ratios: 94.5% and 70.6%, respectively). Then, the reaction mixture is treated with Amberlite Resin IR-120 (H+ -form) at room temperature to desalt the product, followed by neutralization with magnesium oxide, removal of the solvent by distillation, dropwise addition of ethanol to the residue to obtain white powder of magnesium salt of L-ascorbic acid 2-phosphate, which is recrylstallized from water-ethanol (yields: 75.1% and 55.3%, respectively).

reactant | 5,6-isopropylidene-L-ascorbic acid | CC1(OC[C@H](O1)[C@@H]2C(=C(C(=O)O2)O)O)C | C9H12O6
reactant | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | trimethylphosphoric acid | COP(OC)(OC)=O | C3H9O4P
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetone | CC(=O)C | C3H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | L-ascorbic acid 2-phosphate | P(=O)(O)(O)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C6H9O9P
